US06716863B2
2-[1-[4-[4-[[2-[(E)-2-(2,4-difluorophenyl)ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]-1-ethanol
To a solution of 4-[4-[2-(2-hydroxyethyl)-1H-imidazol-1-yl ]butyl]phenol (260 mg) in DMF (4 ml), 60% oily sodium hydride (44 mg) was added under ice cooling. After stirring at room temperature for 30 minutes, (E)-4-chloromethyl-2-[2-(2,4-difluorophenyl) ethenyl]oxazole (281 mg) was added under ice cooling. After stirring at room temperature for 3 days, water was added under ice cooling. The precipitate was collected by filtration and washed with water. The precipitate was dissolved in a mixture of ethyl acetate-THF and dried over magnesium sulfate, after which it was concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to yield the titled compound (275 mg) as pale-yellow crystals.

reactant | 4-[4-[2-(2-hydroxyethyl)-1H-imidazol-1-yl ]butyl]phenol | 260 mg | OCCC=1N(C=CN1)CCCCC1=CC=C(C=C1)O | C15H20N2O2
reactant | sodium hydride | 44 mg | [H-].[Na+]
reactant | (E)-4-chloromethyl-2-[2-(2,4-difluorophenyl) ethenyl]oxazole | 281 mg | ClCC=1N=C(OC1)\C=C\C1=C(C=C(C=C1)F)F | C12H8ClF2NO
reactant | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2-[1-[4-[4-[[2-[(E)-2-(2,4-difluorophenyl)ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]-1-ethanol | 275 mg | FC1=C(C=CC(=C1)F)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCO | C27H27F2N3O3
